US06245761B1
Preparation of N,N-dimethyl-4-[2-fluoro-5-bromobenzyloxy]butylamine
In a 50 ml flask, under a nitrogen atmosphere, 2-fluoro-5-bromobenzyl bromide (967 mg, 3.61 mmol) was dissolved in N,N-dimethylformamide (3.5 ml). To this solution sodium hydride (60%, 245 mg, 6.14 mmol) was added and the resulting mixture was stirred for ten minutes. To the reaction mixture 4-(N,N-dimethylamino)butanol (633 mg, 5.41 mmol) was added and the rsulting mixture was stirred for six hours. The progress of the reaction was monitored by thin layer chromatography. The reaction mixture was partitioned between 1 M potassium carbonate and methylene chloride. The aqueous fraction was back extracted with methylene chloride. The organic fractions were combined and dried over sodium sulfate. The solvents were removed in vacuo. The title intermediate was further purified by liquid chromatography.

reactant | 2-fluoro-5-bromobenzyl bromide | 3.61 mmol, 967 mg | FC1=C(CBr)C=C(C=C1)Br | C7H5Br2F
reactant | sodium hydride | 6.14 mmol, 245 mg | [H-].[Na+]
reactant | 4-(N,N-dimethylamino)butanol | 5.41 mmol, 633 mg | CN(C)CCCCO | C6H15NO
solvent | N,N-dimethylformamide | 3.5 ml | CN(C=O)C | C3H7NO
product | N,N-dimethyl-4-[2-fluoro-5-bromobenzyloxy]butylamine | CN(C)CCCCOCC1=C(C=CC(=C1)Br)F | C13H19BrFNO
